US08084469B2
Methyl 5-[2-fluoro-4-(trifluoromethyl)phenyl]nicotinate
According to General Method 1A, 5.0 g (20.6 mmol) of 1-bromo-2-fluoro-4-(trifluoromethyl)benzene and 13.53 g (51.44 mmol) of methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinate were reacted. Yield: 3.6 g (58% of theory)

reactant | 1-bromo-2-fluoro-4-(trifluoromethyl)benzene | 20.6 mmol, 5.0 g | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | methyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)nicotinate | 51.44 mmol, 13.53 g | CC1(OB(OC1(C)C)C=1C=NC=C(C(=O)OC)C1)C | C13H18BNO4
product | Methyl 5-[2-fluoro-4-(trifluoromethyl)phenyl]nicotinate | FC1=C(C=CC(=C1)C(F)(F)F)C=1C=NC=C(C(=O)OC)C1 | C14H9F4NO2
